US07351858B2
Methyl 2-{[2-(4-{2-[benzyl(ethyl)amino]-2-oxoethoxy}phenyl)ethyl]thio}benzoate (0.137 g, 0.296 mmol) was dissolved in a mixture of acetonitrile/water (1/1, 4 ml), lithium hydroxide (0.014 g, 0.591 mmol) was added. The reaction was performed in an single node microwave oven (5 min, 150 deg). Work-up by removing the solvent by evaporation and addition of HCl (2 ml, 1 M). The waterphase was extracted with two portions of EtOAc (20 ml), the organic phase was dried (MgSO4) and the solvent was removed by evaporation and gave 0.111 g of 2-{[2-(4-{2[-benzyl(ethyl)amino]-2-oxoethoxy}phenyl)ethyl]-thio}benzoic acid (yield 83.5%).

reactant | Methyl 2-{[2-(4-{2-[benzyl(ethyl)amino]-2-oxoethoxy}phenyl)ethyl]thio}benzoate | 0.296 mmol, 0.137 g | C(C1=CC=CC=C1)N(C(COC1=CC=C(C=C1)CCSC1=C(C(=O)OC)C=CC=C1)=O)CC | C27H29NO4S
reactant | lithium hydroxide | 0.591 mmol, 0.014 g | [OH-].[Li+]
solvent | THF water | 4 ml | C1CCOC1.O
product | 2-{[2-(4-{2[-benzyl(ethyl)amino]-2-oxoethoxy}phenyl)ethyl]-thio}benzoic acid | 0.111 g, yield 83.5% | C(C1=CC=CC=C1)N(C(COC1=CC=C(C=C1)CCSC1=C(C(=O)O)C=CC=C1)=O)CC | C26H27NO4S
